US07737166B2
2-(Azetidin-1-yl)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-134)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-130) (0.11 g, 0.38 mmol) was dissolved in a mixed solvent of dichloromethane (10 ml) and ethanol (7 ml), then diisopropylethylamine (0.21 ml, 1.23 mol) and azetidine hydrochloride (71.5 mg, 0.76 mmol) were added. After stirring at an external temperature of about 60° C. for 3 hours, the reaction liquid was concentrated under reduced pressure and diluted with dichloromethane. After washing with water and drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure and the resulting residue was purified by silica gel column chromatography (dichloromethane:methanol=100:1) to obtain a colorless solid (85 mg, 74%).

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.38 mmol, 0.11 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 1.23 mol, 0.21 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | azetidine hydrochloride | 0.76 mmol, 71.5 mg | Cl.N1CCC1
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-(Azetidin-1-yl)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 85 mg, 74% | N1(CCC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C18H14FN3O
